US04053606
A mixture of 0.2 mole of dimethyl maleate and 0.1 mole of 5-ethoxy-4-methyl-2-vinyloxazole are heated at 110°-115° C. for 4 hours. The reaction mixture is cooled and 20 ml. of a 25% solution of hydrogen chloride (dry) in absolute methanol added. Addition of ether to the cooled reaction mixture precipitates the hydrochloride salt of the product. The free base is obtained by dissolving the hydrochloride salt in a minimum volume of water, adding solid sodium bicarbonate to pH 6.5 to 7.0 and extracting with chloroform. The combined chloroform extracts are dried over sodium sulfate and concentrated in vacuo to give dimethyl 2-methyl-3-hydroxy-6-vinyl-pyridine 4,5-dicarboxylate.

reactant | dimethyl maleate | 0.2 mole | C(\C=C/C(=O)OC)(=O)OC | C6H8O4
reactant | 5-ethoxy-4-methyl-2-vinyloxazole | 0.1 mole | C(C)OC1=C(N=C(O1)C=C)C | C8H11NO2
reactant | hydrogen chloride | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | dimethyl 2-methyl-3-hydroxy-6-vinyl-pyridine 4,5-dicarboxylate | CC1=NC(=C(C(=C1O)C(=O)OC)C(=O)OC)C=C | C12H13NO5
